US05561101
7-chloro-3,3-bis(4,6-dimethoxy-1,3,5-triazin-2-yl)phthalide (Table A, cpd. no. 36)
1.48 g of 7-chlorophthalide are dissolved in 80 ml of THF. The solution is cooled to -70° C. and 1.5M IDA in THF (6 ml) is syringed in at -70° C. over 3 min. Stirring is continued for 15 min at -70°, 1.54 g of 2-chloro-4,6-dimethoxy-1,3,5-triazine in 50 ml of THF added dropwise and the mixture is then allowed to warm to -20°. The mixture is again cooled to -70°, and 1 ml of conc. HCl in 10 ml of water is added. The mixture is stirred for 25 min and allowed to warm to RT and the THF is removed by evaporation. The residue is partitioned between CH2Cl2 and water (50 ml each) and the aqueous phase extracted with an additional 30 ml of CH2Cl2. The combined organic phases are washed with 30 ml of water and concentrated to give a yellow gum. This is flash chromatographed on silica gel using 60/40 hexane/ethyl acetate (1000 ml), ethyl acetate (400 ml), 80/20 acetone/methanol (500 ml) (30 fractions×50 ml, 1×200 ml). Fractions 21 and 22 yielded a yellow gum which upon recrystallization from hexane yielded title product m.p. 126°-127° as a yellow solid.

reactant | 7-chlorophthalide | 1.48 g | ClC=1C=CC=C2COC(=O)C12 | C8H5ClO2
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 1.54 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | HCl | 1 ml | Cl | ClH
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 7-chloro-3,3-bis(4,6-dimethoxy-1,3,5-triazin-2-yl)phthalide | ClC=1C=CC=C2C(OC(=O)C12)(C1=NC(=NC(=N1)OC)OC)C1=NC(=NC(=N1)OC)OC | C18H15ClN6O6
